US06949542B2
4-[3-(2-Hydroxymethyl-pyridin-4-yl)-phenyl]-7-(methyl-propyl-amino)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (RS)-[5-(methyl-propyl-amino)-2-(3-oxo-3-{3-[2-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example M282) (0.25 g, 0.36 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light brown solid (109 mg, 62%).

reactant | (RS)-[5-(methyl-propyl-amino)-2-(3-oxo-3-{3-[2-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 0.36 mmol, 0.25 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(CCC)C)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=CC(=NC=C1)COC1OCCCC1)=O)=O)=O | C36H43F3N4O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(2-Hydroxymethyl-pyridin-4-yl)-phenyl]-7-(methyl-propyl-amino)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | OCC1=NC=CC(=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)N(CCC)C)C(F)(F)F | C26H25F3N4O2
